US06080754
7-Benzyloxy-3-(4-benzyloxyphenyl)-4-ethylpyrrolo[2,1,5-cd]indolizine-1,2-dicarboxylic acid
Dimethyl 7-Benzyloxy-3-(4-benzyloxyphenyl)-4-ethylpyrrolo[2,1,5-cd]indolizine-1,2-dicarboxylate (1.0 g, 1.7 mmol) was dissolved in 100 ml of methanol. Potassium hydroxide (3.37 g, 60 mmol) and 2 ml of water was added and the mixture was heated to reflux for 4 days. The reaction mixture was allowed to cool to room temperature and acidified with concentrated hydrochloric acid until pH=1. The resulting precipitate was filtered off, and washed with water and ethanol. This gave 0.89 g (96%) of 7-benzyloxy-3-(4-benzyloxyphenyl)-4-ethylpyrrolo[2,1,5-cd]indolizine-1,2-dicarboxylic acid as yellow crystals. M.p. 151-161° C. MS(SP): m/z 545 (M+). 1H-NMR (DMSO-d6, 200 MHz) δ: 1.32 (t, 3H); 3.02 (q, 2H); 5.18 (s, 2H); 5.52 (s, 2H); 7.15 (d, 2H); 7.29-7.56 (m, 10H); 7.61-7.71 (m, 3H); 8.18 (d, 1H).

reactant | Dimethyl 7-Benzyloxy-3-(4-benzyloxyphenyl)-4-ethylpyrrolo[2,1,5-cd]indolizine-1,2-dicarboxylate | 1.7 mmol, 1.0 g | C(C1=CC=CC=C1)OC1=CC=C2N3C(=C(C(=C13)C(=O)OC)C(=O)OC)C(=C2CC)C2=CC=C(C=C2)OCC2=CC=CC=C2 | C36H31NO6
reactant | Potassium hydroxide | 60 mmol, 3.37 g | [OH-].[K+]
reactant | water | 2 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | 7-Benzyloxy-3-(4-benzyloxyphenyl)-4-ethylpyrrolo[2,1,5-cd]indolizine-1,2-dicarboxylic acid | C(C1=CC=CC=C1)OC1=CC=C2N3C(=C(C(=C13)C(=O)O)C(=O)O)C(=C2CC)C2=CC=C(C=C2)OCC2=CC=CC=C2 | C34H27NO6
